US08748471B2
Preparation of 2-(1,3-dimethylbutyl)cyclohexanamine
5 g of Ru/C (5%) are added to a solution comprising 20.0 g (0.113 mol) of 2-(1,3-dimethylbutyl)aniline in 300 ml of tetrahydrofuran, and the mixture is hydrogenated with 100 bar of hydrogen at 120° C. for 24 hours. After cooling to room temperature, the catalyst is filtered off through Celite 545 and the product is concentrated under reduced pressure. This gives 19.1 g (92.4% of theory) of 2-(1,3-dimethylbutyl)cyclohexanamine having a purity of 100% according to HPLC and a log P (pH 2.3) of 4.07.

reactant | 2-(1,3-dimethylbutyl)aniline | 0.113 mol, 20.0 g | CC(CC(C)C)C1=C(N)C=CC=C1 | C12H19N
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Ru/C | 5 g | [Ru] | Ru
product | 2-(1,3-dimethylbutyl)cyclohexanamine | CC(CC(C)C)C1C(CCCC1)N | C12H25N
